US06939871B2
6-(4-Piperidinyl)-4H-benzo[1,4]oxazin-3-one (D14)
A solution of 6-(4-pyridyl)-4H-benzo[1,4]oxazin-3-one (0.57 g, 2.52 mmol), in methanol (15 mL) was treated with platinum (IV) oxide (50 mg, 0.22 mmol) and 1M HCl in ether (2.7 mL) and stirred at room temperature under an atmosphere of hydrogen for 24 h. The reaction mixture was filtered through celite and the filtrate evaporated in vacuo to give the title compound (0.59 g, 87%) as a pale yellow solid.

reactant | 6-(4-pyridyl)-4H-benzo[1,4]oxazin-3-one | 2.52 mmol, 0.57 g | N1=CC=C(C=C1)C=1C=CC2=C(NC(CO2)=O)C1 | C13H10N2O2
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | ether | 2.7 mL | CCOCC | C4H10O
catalyst | platinum (IV) oxide | 0.22 mmol, 50 mg | [Pt](=O)=O
product | 6-(4-Piperidinyl)-4H-benzo[1,4]oxazin-3-one | 0.59 g, 87% | N1CCC(CC1)C=1C=CC2=C(NC(CO2)=O)C1 | C13H16N2O2
